US08222245B2
[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetic acid
1,1-Dimethylethyl [7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetate (Preparation 10) (85 mg, 0.174 mmol) was treated with HCl (1305 μl, 5.22 mmol) (4N soln in dioxan) and warmed at 50° C. for 2 hours. A white crystalline product formed. The reaction was cooled to RT and the solid filtered off and washed with ether. On drying the title compound was obtained (65 mg) as a white solid. δH (400 MHz, d6DMSO) 1.39 (6H, d), 1.91-2.00 (2H, m), 3.11-3.12 (2H, m), 3.59 (2H, m), 4.00 (2H, s), 4.60 (2H, s), 4.94-5.02 (1H, m), 7.53-7.59 (2H, m), 7.99-8.06 (2H, m), 8.41 (1H, dd), 8.52 (1H, d); MS (ES) C24H24N4O4 requires 432; found 433 [M+H]+.

reactant | 1,1-Dimethylethyl [7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetate | 0.174 mmol, 85 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CC(=O)OC(C)(C)C)C1 | C28H32N4O4
reactant | HCl | 5.22 mmol, 4N, 1305 μl | Cl | ClH
product | [7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl]acetic acid | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)CC(=O)O)C1 | C24H24N4O4
